US07109339B2
General Method for Preparation of 5-methyl-8-(pyridin-yl-methoxy)-6-trifluoromethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
8-Hydroxy-5-methyl-6-trifluoromethyl-1,3,4,4a,5,9b-hexahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (1.0 eq.), bromomethylpyridine (2.0 eq.), and K2CO3 (4.0 eq.) were dissolved in anhydrous DMF(0.3 M). The mixture was stirred under Ar at rt for 24 h. Same work up and deprotection procedure were followed as described in Example 74 Method A and B to obtain the title compound.

reactant | 8-Hydroxy-5-methyl-6-trifluoromethyl-1,3,4,4a,5,9b-hexahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(=O)N1CC2C(N(C=3C(=CC(=CC23)O)C(F)(F)F)C)CC1 | C18H23F3N2O3
reactant | bromomethylpyridine | 2.0 eq. | BrCC1=NC=CC=C1 | C6H6BrN
reactant | K2CO3 | 4.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.3 M | CN(C)C=O | C3H7NO
product | 5-methyl-8-(pyridin-yl-methoxy)-6-trifluoromethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | CN1C2C(C=3C=C(C=C(C13)C(F)(F)F)OCC1=NC=CC=C1)CNCC2 | C19H20F3N3O
